US08377923B2
Methyl N-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoyl]-L-serinate (1.41 g) was mixed with dichloromethane (45 ml), followed by cooling to −78° C. under a nitrogen atmosphere. 2-methoxy-N-(2-methoxyethyl)-N-(trifluoro-λ4-sulfanyl)ethanamine (0.580 ml) was added thereto, followed by stirring for 2 hours, and bromo(trichloro)methane (0.920 ml) and DBU (1.40 ml) were sequentially added thereto at 0° C., followed by stirring for 3 hours. The reaction solution was diluted with ethyl acetate, washed with water, saturated aqueous sodium bicarbonate solution and then saturated brine in this order, and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=100:1). The resulting solid was washed with diisopropylether to obtain, as a white solid, methyl 2-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,3-oxazole-4-carboxylate (1.05 g).

reactant | Methyl N-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoyl]-L-serinate | 1.41 g | ClC=1C=CC(=C(C(=O)N[C@@H](CO)C(=O)OC)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C24H24ClF3N4O5
reactant | 2-methoxy-N-(2-methoxyethyl)-N-(trifluoro-λ4-sulfanyl)ethanamine | 0.580 ml | COCCN(S(F)(F)F)CCOC | C6H14F3NO2S
reactant | bromo(trichloro)methane | 0.920 ml | BrC(Cl)(Cl)Cl | CBrCl3
reactant | DBU | 1.40 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | methyl 2-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,3-oxazole-4-carboxylate | 1.05 g | ClC=1C=CC(=C(C1)C=1OC=C(N1)C(=O)OC)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C24H20ClF3N4O4
